US06794517B2
3a) (S)-β-Cyclopropylalanine tert-butyl ester
3.5 g (27.1 mmol) of (S)-β-cyclopropylalanine were added to a mixture of 50 mL of dioxane and 5 ml of concentrated sulfuric acid (prepared by cautious addition of the acid dropwise to dioxane at 5° C.) at room temperature. The solution was transferred into a sealing tube into which 40 ml of isobutylene were condensed at −78° C. The sealed tube was then shaken at room temperature on a shaker for 24 hours. After the sealed tube had been opened (while cooling), the reaction mixture was cautiously introduced into a stirred mixture of 30 mL of triethylamine and 50 mL of water cooled to 0° C. After removal of excess isobutylene, the product was extracted with ether (2×50 mL). Drying of the ether phases over magnesium sulfate, filtration and removal of the solvent in vacuo resulted in the crude product (pale yellow oil), which was employed without further purification in the subsequent reaction. Yield 4.2 g (84%).

reactant | (S)-β-cyclopropylalanine | 27.1 mmol, 3.5 g | C1(CC1)C[C@H](N)C(=O)O | C6H11NO2
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutylene | 40 ml | CC(C)=C | C4H8
solvent | water | 50 mL | O | H2O
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
product | (S)-β-Cyclopropylalanine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CC1CC1)=O | C10H19NO2
